US06069158
a) 2-Benzyl-4-methoxyphenylacetic acid
A solution of 2-benzoyl-4-methoxyphenylacetic acid (13.0 g, 0.048 mol), prepared by the method of J. Med. Chem. 1981, 24, 998, in glacial acetic acid (600 mL) was treated under argon with 4.3 g. of 10% Pd/C and hydrogenated at 50 psi for 17 hours. The mixture was filtered using celite® and the filtrate was concentrated and reconcentrated from toluene and methylene chloride to give 14.2 of the title compound: 1H NMR (400 MHz, CDCl3) δ 3.52 (s, 2H), 3.75 (s, 3H), 4.0 (s, 3H), 6.7 (m, 2H), 7.15 (m, 6H).

reactant | 2-benzoyl-4-methoxyphenylacetic acid | 0.048 mol, 13.0 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)OC)CC(=O)O | C16H14O4
solvent | acetic acid | 600 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | 2-Benzyl-4-methoxyphenylacetic acid | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)CC(=O)O | C16H16O3
